US08058299B2
2-methyl-3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester (789 mg, 2.77 mmol) from above was dissolved in dry tetrahydrofuran (2 mL) and cooled to −78° C. To this solution was added lithium diisopropylamide (5.5 mmol, prepared from diisopropylamine and n-butyl lithium). The mixture was stirred at −78° C. for 1 hr and methyl iodide (0.7 mL, 11.24 mmol) was added. The mixture was stirred at −78° C. for 2 hrs until complete consumption of the starting material. The mixture was treated with hydrochloric acid (1N, 10 mL) and extracted with ether. The organic layer was washed with brine and dried over sodium sulfate. After evaporation of the solvents, the residue was purified using flash chromatography (eluting with hexanes and ethyl acetate) to give 2,2-dimethyl-3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester as a colorless oil that slowly turned into a solid (598 mg).

reactant | 2-methyl-3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester | 2.77 mmol, 789 mg | COC(C(CC1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C15H27NO4
reactant | lithium diisopropylamide | 5.5 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 11.24 mmol, 0.7 mL | CI | CH3I
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-(N-Boc-piperidine-4-yl)-propionic acid methyl ester | COC(C(CC1CCN(CC1)C(=O)OC(C)(C)C)(C)C)=O | C16H29NO4
